US06323366B1
Synthesis of N-(Diphenylmethylene)-2-methoxyaniline
An oven-dried test tube was charged with tris(dibenzylideneacetone)dipalladium (4.6 mg, 0.005 mmol) and bis(2-(diphenylphosphino)phenyl)ether [DPE-phos] (8.2 mg, 0.015 mmol), capped with a rubber septum, evacuated and refilled with argon. Benzophenone imine (190 mg, 1.05 mmol), 2-bromoanisole (187 mg, 1.0 mmol) and toluene (2 mL) were added via syringe. The resulting solution was stirred at rt for 5 minutes. The tube was opened and sodium tert-butoxide (135 mg, 1.4 mmol) was added. The tube was again capped with the septum, and additional toluene (2 mL) was added via syringe to wash the solid from the test tube wall into the solution. The solution was stirred at room temperature with a gentle argon purge for 23 minutes, then heated at 80° C. for 2 hours and 10 minutes. The reaction mixture was cooled to room temperature and 1 mL ether was added. This solution was washed with saturated aqueous sodium chloride (2 mL) and the organic layer was concentrated in vacuo. The product was isolated as a yellow oil (216 mg, 75%) by flash chromatography on silica gel using 10% ethyl acetate in hexanes as eluent.

reactant | Benzophenone imine | 1.05 mmol, 190 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 2-bromoanisole | 1.0 mmol, 187 mg | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | sodium tert-butoxide | 1.4 mmol, 135 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | bis(2-(diphenylphosphino)phenyl)ether | 0.015 mmol, 8.2 mg | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-(Diphenylmethylene)-2-methoxyaniline | 216 mg, 75% | C1(=CC=CC=C1)C(=NC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C20H17NO
